US09034882B2
A suspension of methyl 2-(2-([1,1′-biphenyl]-3-yl)-7-hydroxy-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate (748 mg, 1.998 mmol) in phosphoryl trichloride (15 ml, 1.998 mmol) was heated to reflux for 16 hrs. Concentrated to remove most of phosphoryl chloride to leave an oil, which was carefully neutralized w/sat'd NaHCO3 to PH=˜7. The precipitates was filtered and washed w/water, dried in vacuo to afford methyl 2-(2-([1,1′-biphenyl]-3-yl)-7-chloro-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate (720 mg, 1.741 mmol, 87% yield). The crude was used for the next reaction directly. 1H-NMR (500 MHz, CDCl3) δ ppm 2.75 (3H, s), 3.81 (3H, s), 3.96 (2H, s), 7.43-7.44 (1H, m), 7.49-7.52 (2H, m), 7.62-7.63 (1H, m), 7.74-7.78 (3H, m), 8.36-8.38 (1H, m), 8.65 (1 H, s).

reactant | methyl 2-(2-([1,1′-biphenyl]-3-yl)-7-hydroxy-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate | 1.998 mmol, 748 mg | C1(=CC(=CC=C1)C1=NN2C(N=C(C(=C2O)CC(=O)OC)C)=N1)C1=CC=CC=C1 | C21H18N4O3
reactant | phosphoryl trichloride | 1.998 mmol, 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | methyl 2-(2-([1,1′-biphenyl]-3-yl)-7-chloro-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate | 1.741 mmol, 720 mg, 87% yield | C1(=CC(=CC=C1)C1=NN2C(N=C(C(=C2Cl)CC(=O)OC)C)=N1)C1=CC=CC=C1 | C21H17ClN4O2
